US05637684
The dimethoxytrityl group of the derivatized CPG from Example 9 is removed by a treatment with 2% dichloroacetic acid followed by washing with dry acetonitrile. The CPG is washed with acetonitrile-pyridine (4:1) followed by a simultaneous treatment of the CPG with 20-30 equivalents of the 10-O-(dimethoxytrityl) decyl-phosphonic acid as the triethylammonium salt, 20-30 equivalents of adamantane carbonyl chloride in acetonitrile-pyridine. The mixture is agitated by circulating the reagents in the synthesis vessel for 10-15 minutes. The CPG is then briefly washed with acetonitrile-pyridine and then treated with diisopropyl phosphite adamantane carbonyl chloride to cap all unreacted hydroxyl groups. Finally, the CPG is washed with acetonitrile-pyridine and then acetonitrile. An estimate of coupling efficiency is derived from the treatment of the CPG with dichloracetic acid in acetonitrile followed by a measurement of the absorbance of an aliquot at 498 nm. Repeating the above procedure n times will yield an oligomer with n+1 decane units and n H-phosphonate linkages. The oligomer is tethered to a LCAA CPG by a succinate group as described above.

reactant | triethylammonium | C(C)[NH+](CC)CC
reactant | adamantane carbonyl chloride | 20-30 equivalents | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | acetonitrile pyridine | C(C)#N.N1=CC=CC=C1
product | decane | CCCCCCCCCC | C10H22
